US05446189
A mixture of 1.08 g (3.0 mmol) of 3-(octadecyloxy)benzenamine, 0.52 ml (3.3mmol) of benzyl bromoacetate and 0.8 g (6.0 mmol) of potassium carbonate in40 ml of acetone was stirred at reflux under argon for 18 hours. The reaction mixture was filtered and the filtrate was concentrated at reducedpressure to an oil which was purified by chromatography on 150 g of silica gel using 20% ethyl acetate-hexane to give 1.1 g (72% yield, mp 55°-60°) of N-[3-(octadecyloxy) phenyl]glycine phenylmethyl ester.

reactant | 3-(octadecyloxy)benzenamine | 3.0 mmol, 1.08 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1)N | C24H43NO
reactant | benzyl bromoacetate | 3.3mmol, 0.52 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | potassium carbonate | 6.0 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[3-(octadecyloxy) phenyl]glycine phenylmethyl ester | 1.1 g, 72% yield | C1(=CC=CC=C1)COC(CNC1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C33H51NO3
